US07863305B2
A solution of dry DMF (0.75 g) in 50 ml dichloroethane was cooled to 0° C. and placed under nitrogen. Oxalyl chloride (1.03 g) dissolved in dichloroethane (5 ml) was added dropwise with stirring. The solution was stirred until no more bubbling was observed (about 15-20 m). 4-Methoxyindole (1.0 g, 6.7 mmole) was added to the solution as a solid and the reaction mixture was stirred at room temperature for four hours. The reaction was quenched by careful addition of 10% sodium carbonate solution. The two phase mixture was stirred at room temperature for 2 hours. The layers were separated and the aqueous layer was extracted with methylene chloride, and the combined organic extracts were dried and evaporated to dryness. The crude residue was passed through a short silica gel column, eluting with 3:7 ethyl acetate:hexane to 1:1 ethyl acetate:hexane to yield 1.13 g (95%) of 4-methoxy-1H-indole-3-carbaldehyde.

reactant | DMF | 0.75 g | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 1.03 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-Methoxyindole | 6.7 mmole, 1.0 g | COC1=C2C=CNC2=CC=C1 | C9H9NO
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | 4-methoxy-1H-indole-3-carbaldehyde | 1.13 g, 95% | COC1=C2C(=CNC2=CC=C1)C=O | C10H9NO2
